US05993780
b. 3,5-Diamino-(2-hydroxyethyl)benzene
3,5-Dinitro-(2-hydroxyethyl)benzene (0.18 g, 0.85 mmol) was dissolved in methanol (50 ml) and hydrogenated over Pd/C (10%) in a Parr apparatus at 60 psi. After complete hydrogen uptake the catalyst was filtered off and the solvent was evaporated which gave a solid residue of 0.10 g (81%).

reactant | 3,5-Dinitro-(2-hydroxyethyl)benzene | 0.85 mmol, 0.18 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])CCO | C8H8N2O5
solvent | methanol | 50 ml | CO | CH4O
solvent | Pd/C | [Pd] | Pd
product | 3,5-Diamino-(2-hydroxyethyl)benzene | NC=1C=C(C=C(C1)N)CCO | C8H12N2O
